US03975443
A mixture of 1-(1-aminomethylcyclohexyl) piperidine (1.5 g.), 4-fluorobenzoyl chloride (2 ml) and pyridine (10 ml) was allowed to stand at room temperature for 1 hr. The crystalline material produced was filtered (2.35 g. 86.6%) and afforded pale lemon rosettes of 1-(4-fluorobenzamido-methylcyclohexyl)piperidine, hydrochloride m.p. 243°-5° (Decomp.).

reactant | 1-(1-aminomethylcyclohexyl) piperidine | 1.5 g | NCC1(CCCCC1)N1CCCCC1 | C12H24N2
reactant | 4-fluorobenzoyl chloride | 2 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-fluorobenzamido-methylcyclohexyl)piperidine, hydrochloride | Cl.FC1=CC=C(C(=O)NC2C(CCCC2)(N2CCCCC2)C)C=C1 | InChI=1S/C19H27FN2O.ClH/c1-19(22-13-5-2-6-14-22)12-4-3-7-17(19)21-18(23)15-8-10-16(20)11-9-15;/h8-11,17H,2-7,12-14H2,1H3,(H,21,23);1H
